US05914339
5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(5-methyl-[1,3]dioxan-5-ylmethyl) ester
The title compound was prepared from 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid and 5-methyl-[1,3]dioxan-5-ylmethanol according to the procedure of Example 1 as an off-white solid; 1H NMR (DMSO-d6,400 MHz) 6 0.7 (s, 3H, CH3), 0.74 (s, 3H, CH3), 1.1 (d, J=6.59 Hz, 3H, CH3), 2.6 (m, 1H, CH), 3-3.3 (m, 8H, CH, CH2), 3.6-3.7 (m, 4H, CH2), 4.6-4.8 (m, 4H, CH2), 5.04 (m, 1H, CH), 6.34 (brs, 1H, OH), 6.84 (dd, J=8.13, 1.32 Hz, 1H, Ar--H), 7.07 (m, 2H, Ar--H), 7.36-7.44 (m, 3H, Ar--H), 7.48 (s, 1H, Ar--H), 8.77 (brs, 1H, NH), 9.2 (brs, 1H, NH); IR (KBr, cm-) 3400 (OH), 2900 (NH), 1760 (CO); MS m/e 650 (M+H)+; Analysis for: C32H40ClNO11 ×HCl: Calc'd: C, 55.98; H, 6.02; N, 2.04; Found: C, 54.67; H, 6.58; N, 2.05.

reactant | 5-{2-[2-(3-chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic acid | ClC=1C=C(C=CC1)C(CNC(CC1=CC2=C(OC(O2)(C(=O)O)C(=O)O)C=C1)C)O | C20H20ClNO7
reactant | 5-methyl-[1,3]dioxan-5-ylmethanol | CC1(COCOC1)CO | C6H12O3
reactant | KBr | [K+].[Br-]
reactant | HCl | Cl | ClH
product | 5-{(2R)-2-[(2R)-2-(3-Chloro-phenyl)-2-hydroxy-ethylamino]-propyl}-benzo[1,3]dioxole-2,2-dicarboxylic aicd bis-(5-methyl-[1,3]dioxan-5-ylmethyl) ester | CC1(COCOC1)COC(=O)C1(OC2=C(O1)C=CC(=C2)C[C@@H](C)NC[C@H](O)C2=CC(=CC=C2)Cl)C(=O)OCC2(COCOC2)C | C32H40ClNO11
